US07572820B2
A. Methyl 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoate
Synthesized as described in Example 4 from 4-(trifluoromethyl)-1H-indole-5-carbonitrile and methyl 2-bromopropanoate: MS (APCl) m/z 297 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | methyl 2-bromopropanoate | BrC(C(=O)OC)C | C4H7BrO2
product | Methyl 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoate | C(#N)C=1C(=C2C=CN(C2=CC1)C(C(=O)OC)C)C(F)(F)F | C14H11F3N2O2
